US04720495
1.79 g (0.005 mole) of 9-fluoro-5-methyl-8-(4-methyl-1-piperazinyl)-1-oxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid was dissolved, at room temperature, in a mixture of 17 ml of 3N aqueous solution of sodium hydroxide and 5 ml of isopropanol. This solution was adjusted to pH 1 by the addition of concentrated hydrochloric acid under cooling with ice. The crystals which separated out were collected by filtration and successively washed with small volumes of water and isopropanol. These crystals were recrystallized from water to obtain 1.50 g (76.0% yield) of 9-fluoro-5-methyl-8-(4-methyl-1-piperazinyl)-1-oxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride in the form of pale-yellow crystals. These crystals had a melting point of 193°-197° C. (dec.).

reactant | 9-fluoro-5-methyl-8-(4-methyl-1-piperazinyl)-1-oxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid | 0.005 mole, 1.79 g | FC1=C(C=2C=CC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CCN(CC1)C | C19H20FN3O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | [OH-].[Na+]
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 9-fluoro-5-methyl-8-(4-methyl-1-piperazinyl)-1-oxo-1H, 5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride | 1.50 g, 76.0% yield | Cl.FC1=C(C=2C=CC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CCN(CC1)C | InChI=1S/C19H20FN3O3.ClH/c1-11-3-4-12-16-13(18(24)14(19(25)26)10-23(11)16)9-15(20)17(12)22-7-5-21(2)6-8-22;/h3-4,9-11H,5-8H2,1-2H3,(H,25,26);1H
